US07910592B2
To a solution of methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-oxoindane-5-carboxylate (45.9 mg, 0.129 mmol) in heptane (1 mL) and THF (1 mL) at −20° C. under N2, was added dropwise 3N MeMgCl in THF (86 uL, 0.258 mmol). The reaction mixture was stirred at −20° C. for 2 h. The mixture was quenched with sat. aq. NH4Cl and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to give methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-hydroxy-3-methylindane-5-carboxylate. LCMS calc.=395.2; found=394.9 (M+Na)+. 1H NMR (500 MHz, CDCl3): δ 7.89 (s, 1H); 7.20 (s, 1H); 7.09 (d, J=8.6 Hz, 1H); 6.62 (d, J=12.1 Hz, 1H); 3.72 (s, 3H); 3.70 (s, 3H); 3.28-3.20 (m, 1H); 3.15-3.09 (m, 1H); 2.96-2.90 (m, 1H); 2.36-2.24 (m, 2H); 1.91 (br s, 1H); 1.66 (s, 3H); 1.30 (d, J=6.9 Hz, 6H).

reactant | methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-oxoindane-5-carboxylate | 0.129 mmol, 45.9 mg | FC1=CC(=C(C=C1C(C)C)C1=C(C=C2C(CCC2=C1)=O)C(=O)OC)OC | C21H21FO4
reactant | MeMgCl | 3N | C[Mg]Cl
solvent | heptane | 1 mL | CCCCCCC | C7H16
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.258 mmol, 86 uL | C1CCOC1 | C4H8O
product | methyl 6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-3-hydroxy-3-methylindane-5-carboxylate | FC1=CC(=C(C=C1C(C)C)C1=C(C=C2C(CCC2=C1)(C)O)C(=O)OC)OC | C22H25FO4
